US04988788
Into 63 parts of allyl methacrylate admixed with 0.04 part of chloroplatinic acid in the form of an isopropyl alcohol solution and heated at 60° 70° C. were added dropwise gradually 111 parts of 1,1,1,3,5,5,5-heptamethyl trisiloxane and, after completion of the dropwise addition of the silane compound, the mixture was heated at 90° C. for further 2 hours to complete the reaction. Thereafter, the reaction mixture was distilled under reduced pressure to be freed from the unreacted reactants and then filtered to give 1,1,1,3,5,5,5- heptamethyl-3-(3-methacryloxypropyl) trisiloxane, which is referred to as the compound B-1 hereinbelow, in a yield of 165 parts corresponding to 95% of the theoretical yield.

reactant | allyl methacrylate | C(C(=C)C)(=O)OCC=C | C7H10O2
reactant | 1,1,1,3,5,5,5-heptamethyl trisiloxane | C[Si](O[SiH](O[Si](C)(C)C)C)(C)C | C7H22O2Si3
reactant | silane | [SiH4] | H4Si
catalyst | chloroplatinic acid | [H+].[H+].Cl[Pt-2](Cl)(Cl)(Cl)(Cl)Cl
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
product | 1,1,1,3,5,5,5- heptamethyl-3-(3-methacryloxypropyl) trisiloxane | C[Si](O[Si](O[Si](C)(C)C)(CCCOC(C(=C)C)=O)C)(C)C | C14H32O4Si3
